US08293869B2
D. Preparation of 9-hydroxymethyl-2,7-diaminofluorene dihydrochloride
9-Hydroxymethyl-2,7-di(Boc-amino)fluorene (0.39 g, 0.9 mmol) was dissolved in 1,4-dioxane. At 0° C. concentrated HCl (2.5 mL) was added and the reaction was stirred for two hours at 0° C. and for one hour at room temperature. The reaction solvents were removed at reduced pressure (45° C.). The product was dissolved in methanol and evaporated (2 times). The product was dissolved in methanol (8 mL) and precipitated by the slow addition of diethyl ether and cooling (repeat). The product was a red-orange solid (0.25 g, 91%) that showed a single spot by TLC (chloroform/methanol/acetic acid 85:15:3, ninhydrin stain). 1H-NMR (CD3OD): δ (ppm) 8.1 (d, 2H, Ar); 7.8 (s, 2H, Ar); 7.5 (d, 2H, Ar); 4.3 (t, 1H, CH); 4.0 (d, 2H, CH2)

reactant | 9-Hydroxymethyl-2,7-di(Boc-amino)fluorene | 0.9 mmol, 0.39 g | OCC1C2=CC(=CC=C2C=2C=CC(=CC12)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C24H30N2O5
reactant | HCl | 2.5 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 9-hydroxymethyl-2,7-diaminofluorene dihydrochloride | Cl.Cl.OCC1C2=CC(=CC=C2C=2C=CC(=CC12)N)N | InChI=1S/C14H14N2O.2ClH/c15-8-1-3-10-11-4-2-9(16)6-13(11)14(7-17)12(10)5-8;;/h1-6,14,17H,7,15-16H2;2*1H
